US04381303
9-(n-Butyl)-1,4,9,10-tetrahydro-1,3,4-trimethyl-pyrazolo[4,3-e]pyrido[3,2-b][1,4]diazepin-10-one
Prepared analogously to Example 6 from 9-(n-butyl)-1,3-dimethyl-1,4,9,10-tetrahydro-pyrazolo[4,3-e]pyrido[3,2-b][1,4]diazepin-10-one, sodium hydride, and methyl iodide in N,N-dimethylformamide with subsequent chromatographic purification.

reactant | 9-(n-butyl)-1,3-dimethyl-1,4,9,10-tetrahydro-pyrazolo[4,3-e]pyrido[3,2-b][1,4]diazepin-10-one | C(CCC)N1C2=C(NC3=C(C1=O)N(N=C3C)C)N=CC=C2 | C15H19N5O
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 9-(n-Butyl)-1,4,9,10-tetrahydro-1,3,4-trimethyl-pyrazolo[4,3-e]pyrido[3,2-b][1,4]diazepin-10-one | C(CCC)N1C2=C(N(C3=C(C1=O)N(N=C3C)C)C)N=CC=C2 | C16H21N5O
